US06727264B1
N-(6-BROMO-2-PYRIDINYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 using 2-methylpropanoyl chloride and 6-bromo-2-pyridinamine: ESMS m/e: 242.8 (M+H)+.

reactant | 2-methylpropanoyl chloride | CC(C(=O)Cl)C | C4H7ClO
reactant | 6-bromo-2-pyridinamine | BrC1=CC=CC(=N1)N | C5H5BrN2
product | N-(6-BROMO-2-PYRIDINYL)-2-METHYLPROPANAMIDE | BrC1=CC=CC(=N1)NC(C(C)C)=O | C9H11BrN2O
